US07795262B2
Step 1. Preparation of (6-bromo-3,4-dihydro-1H-isoquinolin-2-yl)-acetic acid tert-butyl ester
To a mixture of 6-bromo-1,2,3,4-tetrahydro-isoquinoline (10.60 g, 50 mmol) and t-butyl bromoacetate (9.95 g, 51 mmol, 1.02 eq.) in acetonitrile (100 ml) are added sodium carbonate (10.6 g, 100 mmol, 2.0 eq.) and NaI (375 mg, 2.5 mmol, 0.05 eq.). The resulting mixture is stirred at rt for 16 hr. Water (100 ml) is added to quench the reaction, and the acetonitrile is evaporated. The residue is extracted with EtOAc (100 ml×3), and the combined organic phase is dried over sodium sulfate and concentrated. The residue is purified by silica gel flash chromatography (EtOAc/hexane, 1:4) to give the title compound. MS (+VE) m/z 326.10 (M++1).

reactant | 6-bromo-1,2,3,4-tetrahydro-isoquinoline | 50 mmol, 10.60 g | BrC=1C=C2CCNCC2=CC1 | C9H10BrN
reactant | t-butyl bromoacetate | 51 mmol, 9.95 g, 1.02 eq. | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium carbonate | 100 mmol, 10.6 g, 2.0 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaI | 2.5 mmol, 375 mg, 0.05 eq. | [Na+].[I-]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | Water | 100 ml | O | H2O
product | (6-bromo-3,4-dihydro-1H-isoquinolin-2-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1CC2=CC=C(C=C2CC1)Br)=O | C15H20BrNO2
